US06900353B2
Scheme IA, step D: Into a flame dried 250 mL 3 neck flask that was fitted with a thermometer and condenser, magnesium turnings (683 mg, 28.1 mmol) were placed in 15 mL anhydrous THF. While stirring at room temperature under a nitrogen atmosphere, a small amount of 4-bromo-dibenzene in THF (50 mL) was added dropwise along with one iodine crystal and 0.01 mL of dibromoethane. This mixture was stirred vigorously and heated with a heat gun until the Grignard was initiated as foaming was observed from metal turnings. The addition of 4-bromo-dibenzene was continued dropwise, keeping the temperature above 50° C. After the addition of 4-bromobiphenyl (8.00 g, 30 mmol), the reaction was heated at reflux for 45 minutes to insure complete Grignard formation. This reaction produced 60 mL of 0.032 M of di-bromobiphenyl magnesium bromide. The reaction was let cool to room temperature. Into a flame dried 100 mL 3 neck flask that was fitted with a thermometer and condenser, 2-{[(methylethyl)sulfonyl]amino}cyclopentan-1-one (500 mg, 2.44 mmol) in THF (35 mL) was added dropwise to 10 mL of the above synthesized Grignard. After addition, reaction was refluxed for 2 hours and then stirred overnight at room temperature. In the morning, enough saturated ammonium chloride in water was added to precipitate salts nicely and the organic layer was decanted off. The remaining salts were washed two times with ether and the combined organic layers were concentrated under reduced vacuum. The resulting material was taken into ethyl acetate, washed once with water, dried over potassium carbonate, filtered, and concentrated under reduced vacuum to yield 1.21 g of 2 spot material as a yellow solid. This isomeric mixture was separated and purified via silica gel chromatography employing the Water's Prep 2000 while eluting with a solvent of methylene chloride/ethyl acetate 9:1 to provide the intermediate title compound (130 mg, Cis) as a white solid (the top spot by TLC). FD M.S. 360.1 (M*).

reactant | magnesium | 28.1 mmol, 683 mg | [Mg] | Mg
reactant | iodine | II | I2
reactant | dibromoethane | 0.01 mL | BrC(C)Br | C2H4Br2
reactant | 4-bromobiphenyl | 30 mmol, 8.00 g | BrC1=CC=C(C=C1)C1=CC=CC=C1 | C12H9Br
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | di-bromobiphenyl magnesium bromide | 0.032 M, 60 mL | [Br-].[Mg+2].BrC1=CC=C(C=C1)C1=CC=C(C=C1)Br.[Br-] | InChI=1S/C12H8Br2.2BrH.Mg/c13-11-5-1-9(2-6-11)10-3-7-12(14)8-4-10;;;/h1-8H;2*1H;/q;;;+2/p-2
